US08648066B2
1,1-Dimethylethyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (5.0 g, 20.1 mmol), bis(pinacolato)diboron (5.6 g, 22.1 mmol), potassium acetate (5.9 g, 60.2 mmol) and [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) (440 mg, 0.62 mmol) were heated in DMSO (5 mL) solution at 80 C for 1.5 h. The mixture was then cooled to room temperature and diluted with an excess of ethyl acetate and filtered through a bed of celite. The filtrate was partitioned with 1M aqueous hydrochloric acid and the organic phase washed with brine and dried over anhydrous sodium sulfate. The mixture was filtered and concentrated and the residue purified by silica chromatography using 4:1 hexanes:ethyl acetate as eluent to give 1,1-dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (7.6 g, 100%). 1H NMR (400 MHz, CDCl3): 7.77 (s, 0.4H), 7.67 (s, 1H), 7.65 (s, 0.6H), 7.04-6.98 (m, 1H), 4.54 (s, 0.7H), 4.43 (s, 1.3H), 4.09-4.01 (m, 2H), 3.79 (dd, 2H), 1.40 (br s, 9H), 1.26 (s, 12H). MS (EI) for C20H30BNO5: 376 (MH+).

reactant | 1,1-Dimethylethyl 7-bromo-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 20.1 mmol, 5.0 g | BrC=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1 | C14H18BrNO3
reactant | bis(pinacolato)diboron | 22.1 mmol, 5.6 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 60.2 mmol, 5.9 g | C(C)(=O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.62 mmol, 440 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 1,1-dimethylethyl 7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 7.6 g, 100% | CC1(OB(OC1(C)C)C=1C=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C1)C | C20H30BNO5
